US05691384
N-(2-Diethylaminoethyl)-N-acetyl-4-aminobenzophenone
Combine N-acetyl-4-aminobenzophenone (4.0 g, 16.7 mmol), 2-diethylaminoethyl chloride hydrochloride (3.97 g, 23.1 mmol), and powdered potassium hydroxide (2.81 g, 50.1 mmol) in acetone (30 mL). Heat to reflux. After 2 hours, cool and decant the solvent. Evaporate the solvent in vacuo to give a residue. Partition the residue between water and ethyl acetate. Separate the organic layer and extract with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf =0.0-0.14 (streaks on silica gel, ethyl acetate).

reactant | N-acetyl-4-aminobenzophenone | 16.7 mmol, 4.0 g | C(C)(=O)NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H13NO2
reactant | 2-diethylaminoethyl chloride hydrochloride | 23.1 mmol, 3.97 g | Cl.C(C)N(CCCl)CC
reactant | potassium hydroxide | 50.1 mmol, 2.81 g | [OH-].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(2-Diethylaminoethyl)-N-acetyl-4-aminobenzophenone | C(C)N(CCN(C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C(C)=O)CC | C21H26N2O2
